US06806265B2
f) 3-{4-[2-(11-Ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}-5-isoxazolecarboxylic acid
A solution of ethyl 3-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}-5-isoxazolecarboxylate (50.0 mg, 0.090 mmol) and aqueous 1 N NaOH solution (0.90 mL, 0.90 mmol) in THF (2 mL) and MeOH (0.5 mL) was stirred at 25° C. for 1 h. The reaction mixture was concentrated under reduced pressure, acidified with aqueous 4 N HCl solution and extracted with EtOAc (1×) and CH2Cl2 (1×). The combined organic layers were washed with water and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The resulting solid was triturated with EtOAc/Hexane to give the title compound (40 mg, 85% yield) as a pale yellow solid. A 1 N NaOH solution (78 μL, 0.078 mmol) was added to a solution of the title compound (39.0 mg, 0.078 mmol) in THF (3 mL). After 45 min, the mixture was concentrated. The residue was dissolved in water and MeCN then the solution was frozen and lyophilized to give the corresponding sodium salt of the title compound 1041 (40.5 mg, 100% yield) as a white solid.

reactant | ethyl 3-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}-5-isoxazolecarboxylate | 0.090 mmol, 50.0 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C=C3)C3=NOC(=C3)C(=O)OCC)C)=O)C)C=CC=N2 | C29H29N5O5
reactant | NaOH | 0.90 mmol, 1 N, 0.90 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 mL | CO | CH4O
product | 3-{4-[2-(11-Ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}-5-isoxazolecarboxylic acid | 40 mg, 85% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C=C3)C3=NOC(=C3)C(=O)O)C)=O)C)C=CC=N2 | C27H25N5O5
